### ISSUE TITLE
feat(Ch4 #Problem4.12.8-a-iii): prove pole_order_diophantine — solve 2(1-1/n)=∑(1-1/mᵢ) (cyclic/dihedral/A₄/S₄/A₅ families)

### ISSUE THREAD

**Issue by kim-em** [mathlib-initiative/Etingof-RepresentationTheory-draft1#6835]
## Current state

`EtingofRepresentationTheory/Chapter4/Problem4_12_8.lean` scaffolds the part-(a) `SO(3)`
classification. The purely arithmetic milestone is the sorried lemma **`pole_order_diophantine`**
(line ~88):

```lean
theorem pole_order_diophantine (n : ℕ) (hn : 2 ≤ n) (m : Multiset ℕ)
    (hm2 : ∀ x ∈ m, 2 ≤ x) (hmdvd : ∀ x ∈ m, x ∣ n)
    (heq : 2 * (1 - (n : ℚ)⁻¹) = (m.map (fun x => 1 - (x : ℚ)⁻¹)).sum) :
    m = {n, n} ∨ m = {2, 2, n} ∨ m = {2, 3, 3} ∨ m = {2, 3, 4} ∨ m = {2, 3, 5} := sorry
```

- [ ] depends on #6802

## Deliverable

Prove `pole_order_diophantine` sorry-free, **statement unchanged**. This is the classical
solution of `2(1 - 1/n) = ∑ᵢ (1 - 1/mᵢ)` with each `mᵢ ≥ 2`, `mᵢ ∣ n`. It is fully self-contained
(no geometry): a finite case analysis over the rationals/naturals.

## Route

- Each term `1 - 1/mᵢ ∈ [1/2, 1)` since `mᵢ ≥ 2`. The left side `2 - 2/n ∈ [1, 2)` since `n ≥ 2`.
- Card bound: summing `k = m.card` terms each `< 1` to a total `≥ 1` gives `k ≥ 2`; each `≥ 1/2`
  to a total `< 2` gives `k ≤ 3`. So `k ∈ {2, 3}`.
- `k = 2`: `1/a + 1/b = 2/n`; with `a, b ∣ n` (so `a, b ≤ n`) and `≥ 2`, forces `a = b = n`
  (`{n, n}`).
- `k = 3`, WLOG `a ≤ b ≤ c`: `1/a + 1/b + 1/c = 1 + 2/n > 1` forces `a = 2`; then
  `1/b + 1/c = 1/2 + 2/n` forces `b ∈ {2, 3}`; `b = 2` gives `c = n` (`{2, 2, n}`), `b = 3` gives
  `1/c = 1/6 + 2/n` with `c ∣ n`, `c ≥ 3`, whose solutions are `c ∈ {3, 4, 5}` (`{2,3,3}` at
  `n=12`, `{2,3,4}` at `n=24`, `{2,3,5}` at `n=60`).

Working with a **sorted `List`** (`Multiset.sort`) makes the `k`-element case analysis and the
`a ≤ b ≤ c` ordering tractable; convert back to `Multiset` equalities at the end. `interval_cases`
/ `omega` / `decide` handle the finite integer sub-cases once bounds are established.

## Verification
```
lake build EtingofRepresentationTheory.Chapter4.Problem4_12_8
```
`pole_order_diophantine` carries no `sorry`.

**Comment by kim-em** [comment]
Session: `33ac39d8-2c02-441a-b175-2b05ae2ec424` Branch: `agent/33ac39d8`

**Comment by kim-em** [comment]
Claimed by session `d52f220b-d5c9-428c-bf12-3220e2cc23f0` on branch `agent/d52f220b`

**Comment by kim-em** [comment]
## Cannot prove as stated — the statement is mathematically false

`pole_order_diophantine`'s conclusion lists the dihedral solution as `m = {2, 2, n}`, but the
correct multiset is `{2, 2, n/2}` (with `n` even). The equation forces this: for the three-term
case with two `2`s,

```
2(1 - 1/n) = (1 - 1/2) + (1 - 1/2) + (1 - 1/c)
2 - 2/n     = 1 + (1 - 1/c) = 2 - 1/c
⇒ 1/c = 2/n ⇒ c = n/2      (not c = n)
```

The issue's own route has the same slip: "`b = 2` gives `c = n`" should read "`c = n/2`".

### Verified counterexample: `n = 8`, `m = {2, 2, 4}`

All hypotheses hold and the conclusion fails, so the current statement is false. Checked in Lean
(compiles clean):

```lean
example :
    (2 ≤ 8) ∧
    (∀ x ∈ ({2,2,4} : Multiset ℕ), 2 ≤ x) ∧
    (∀ x ∈ ({2,2,4} : Multiset ℕ), x ∣ 8) ∧
    (2 * (1 - (8 : ℚ)⁻¹) = (({2,2,4} : Multiset ℕ).map (fun x => 1 - (x : ℚ)⁻¹)).sum) ∧
    (({2,2,4} : Multiset ℕ) ≠ {8,8} ∧ ({2,2,4} : Multiset ℕ) ≠ {2,2,8} ∧
     ({2,2,4} : Multiset ℕ) ≠ {2,3,3} ∧ ({2,2,4} : Multiset ℕ) ≠ {2,3,4} ∧
     ({2,2,4} : Multiset ℕ) ≠ {2,3,5}) := by
  refine ⟨by norm_num, by decide, by decide, ?_, by decide, by decide, by decide, by decide, by decide⟩
  simp only [Multiset.insert_eq_cons]; norm_num
```

`{2,2,4}` (the rotation group of a square prism / dihedral `D₄`, group order `8`) is a genuine
solution absent from the five listed families.

### Proposed corrected statement

```lean
theorem pole_order_diophantine (n : ℕ) (hn : 2 ≤ n) (m : Multiset ℕ)
    (hm2 : ∀ x ∈ m, 2 ≤ x) (hmdvd : ∀ x ∈ m, x ∣ n)
    (heq : 2 * (1 - (n : ℚ)⁻¹) = (m.map (fun x => 1 - (x : ℚ)⁻¹)).sum) :
    m = {n, n} ∨ (∃ k, n = 2 * k ∧ m = {2, 2, k}) ∨
    m = {2, 3, 3} ∨ m = {2, 3, 4} ∨ m = {2, 3, 5}
```

(the `n = 2*k` clause captures the dihedral family `D_k` of order `n = 2k`, poles `{2, 2, k}`).

Both the statement in `Chapter4/Problem4_12_8.lean` and the route in this issue need this
correction. The statement lives in the unmerged scaffold PR #6837, so I cannot land a fix here
without stepping on that PR's scope. Skipping for replan: a planner should correct the scaffold
statement (coordinating with #6837) and the downstream assembly issue #6836, then re-issue this.

**Comment by kim-em** [comment]
Skipped by session `d52f220b-d5c9-428c-bf12-3220e2cc23f0` (needs replan): Statement mathematically false: dihedral solution is {2,2,n/2}, not {2,2,n} (counterexample n=8,m={2,2,4} verified in Lean). Scaffold PR #6837 needs the corrected statement first. See issue comment.

**Comment by kim-em** [comment]
Superseded by #6842.

Triaged during replan: the deliverable required proving `pole_order_diophantine` **with the statement unchanged**, but that statement is mathematically false — the dihedral solution is `{2, 2, n/2}`, not `{2, 2, n}` (verified counterexample n=8, m={2,2,4}, per the skip comment above). The scaffold PR #6837 has since merged, so the false statement now lives on `main`.

#6842 carries the corrected statement (dihedral disjunct `∃ k, n = 2*k ∧ m = {2,2,k}`) and covers both fixing the statement in the file and proving it sorry-free.
